US04847279
233 g (0.99 mol) of 4-fluorophenyl 1,3-dichloropropyl ketone are dissolved in 300 ml of tert.-butanol and 135 g of potassium tert.-butylate are added in portions. The mixture is substantially stirred at 40° C. for 2 hours and concentrated in vacuo. The residue is taken up in methylene chloride and water. The organic phase is seperated off, dried over sodium sulphate and concentrated in vacuo. The residue is distilled under a high vacuum. 145 g (74% of theory) of 1-(4-fluorobenzoyl)-1-chloro-cyclopropane of boiling point 73° C./0.1 mbar are obtained.

reactant | 4-fluorophenyl 1,3-dichloropropyl ketone | 0.99 mol, 233 g | ClC(CCCl)C(=O)C1=CC=C(C=C1)F | C10H9Cl2FO
solvent | tert.-butanol | 300 ml | C(C)(C)(C)O | C4H10O
product | 1-(4-fluorobenzoyl)-1-chloro-cyclopropane | 145 g, 74% | FC1=CC=C(C(=O)C2(CC2)Cl)C=C1 | C10H8ClFO
